US03994890
By the procedure similar to that described in Example 24, 3-phenyl-5-chloroindazole (9.2 g), sodium hydride 50% pure (2.3 g) and phthalimidopropyl chloride (9.0 g) were treated to obtain 10.4 g of 1-phthalimidopropyl-3-phenyl-5-chloroindazole. Recrystallization from methanol gave a product having a melting point between 121°-122° C.

reactant | 3-phenyl-5-chloroindazole | 9.2 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)Cl | C13H9ClN2
reactant | sodium hydride | [H-].[Na+]
reactant | phthalimidopropyl chloride | 9.0 g | C1(C=2C(C(N1CCCCl)=O)=CC=CC2)=O | C11H10ClNO2
product | 1-phthalimidopropyl-3-phenyl-5-chloroindazole | 10.4 g | C1(C=2C(C(N1C(CC)C1=C3C(=NNC3=CC=C1Cl)C1=CC=CC=C1)=O)=CC=CC2)=O | C24H18ClN3O2
